US05306824
Biotinylethylenediamine.
HCl. Biotin (1 g, 4.1 mmole) was dissolved in 20 ml of DMF at 70° C. and cooled to 40° C., 1,1'-carbonyl diimidazole (0.97 g, 6 mmole) in 3 ml of DMF was then added and white precipitates were appeared. After stirring at r. t. for two hours, ethylenediamine (1.34 ml, 20 mmole) in 10 ml of DMF was added and stirred for another 3 hours. After DMF was evaporated, the semisolid residue was dissolved in 50 ml of refluxed methanol and the unreacted biotin was removed by filtration. After the solution was evaporated to dryness, the residue was washed with CHCl3 to remove the imidazole, dissolved in 6 ml of water, acidified to pH 3.0 with 1N HCl, and evaporated to dryness. The product was crystallized from methanol to give 1.04 g (yield 79%), TLC: Rf =0.21 (butanol:acetic acid:H2O=4:1:1), mp 241°-242° C., NMR is consistent with the structure.

reactant | HCl | Cl | ClH
reactant | Biotin | 4.1 mmole, 1 g | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | 1,1'-carbonyl diimidazole | 6 mmole, 0.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethylenediamine | 20 mmole, 1.34 ml | C(CN)N | C2H8N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | butanol | C(CCC)O | C4H10O
product | Biotinylethylenediamine | yield 79% | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NCCN | C12H22N4O2S
